US07875600B2
2-Amino-6-(2-furyl)-N-(5-indolylmethyl)pyrimidine-4-carboxamide (Example 35)
A mixture consisting of 2-amino-6-(2-furyl)pyrimidine-4-carboxylic acid (206 mg, 1.0 mmol), indole-5-methanamine (146 mg, 1.0 mmol), polymer supported carbodiimide (Argonaut Technologies, loading 1.38 mmol/g, 1.10 g, 1.5 mmol) and 1-hydroxybenzotriazole hydrate (203 mg, 1.5 mmol) in DMF (5 mL) was stirred at room temperature for 24 hr. The mixture was filtered through a pad of Celite, washing through with EtOAc. The filtrate was washed successively with H2O (10 mL), 2-M Na2CO3 (2×10 mL) and H2O (10 mL), dried (MgSO4) and concentrated in vacuo. The resulting oil was dissolved in MeOH (1.0 mL), added dropwise with stirring to H2O (2 mL) and the resulting precipitate filtered to give the title compound (198 mg, 59%) as a cream solid.

reactant | 2-amino-6-(2-furyl)pyrimidine-4-carboxylic acid | 1.0 mmol, 206 mg | NC1=NC(=CC(=N1)C(=O)O)C=1OC=CC1 | C9H7N3O3
reactant | indole-5-methanamine | 1.0 mmol, 146 mg | N1C=CC2=CC(=CC=C12)CN | C9H10N2
reactant | carbodiimide | 1.5 mmol, 1.10 g | N=C=N | CH2N2
reactant | 1-hydroxybenzotriazole hydrate | 1.5 mmol, 203 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Amino-6-(2-furyl)-N-(5-indolylmethyl)pyrimidine-4-carboxamide | 198 mg, 59% | NC1=NC(=CC(=N1)C(=O)NCC=1C=C2C=CNC2=CC1)C=1OC=CC1 | C18H15N5O2
